US07109219B2
4-(1-Hydroxy-1-methylethyl)piperidine
Benzyl 4-(1-hydroxy-1-methylethyl)piperidine-1-carboxylate (1.786 g, 6.44 mmol) synthesized in Production example 42-2 was dissolved in methanol (100 ml) under nitrogen atmosphere; 10% palladium on carbon (50% wet, 1.37 g) was added; the reaction system was purged with hydrogen at atmospheric pressure; and the reaction mixture was stirred overnight. After the reaction system was purged with nitrogen, the catalyst was filtered out, and washed with methanol; the solvent, together with the filtrate and the washing solution, was distilled off; and the residue was dried under reduced pressure to yield the title compound (922 mg, 6.44 mmol, quantitative) as pale gray crystals.

reactant | Benzyl 4-(1-hydroxy-1-methylethyl)piperidine-1-carboxylate | 6.44 mmol, 1.786 g | OC(C)(C)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C16H23NO3
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on carbon | 1.37 g | [Pd] | Pd
product | 4-(1-Hydroxy-1-methylethyl)piperidine | 6.44 mmol, 922 mg | OC(C)(C)C1CCNCC1 | C8H17NO
